US07323562B2
Synthesis of 5-fluorosalicylic acid methyl ester (7)
5-Fluorosalicylic acid (272.6 g, 1.74 mol) was dissolved in methanol (1.3 L) to form a clear solution. Concentrated sulfuric acid (50 ml) was slowly added to the methanol solution with vigorous stirring. The solution was heated to reflux for 4 hours. Trimethyl orthoformate (200 ml) was added slowly to the reaction solution. 300 ml of solvents (methyl formate and methanol) was distilled off. The remaining reaction solution was heated at 66° C. (refluxing temperature) for 16 hours. HPLC analysis indicated that the reaction was complete. Reaction solution was cooled to ambient temperature. Solvent was removed under reduced pressure. The residue was partitioned between water (140 ml) and methylene chloride (220 ml). Organic layer was separated. Aqueous layer was extracted with methylene chloride (3×220 ml). The combined organic layer was washed with water (270 ml), brine (270 ml) and dried with MgSO4. The organic solution was concentrated to dryness to afford crude product (293.8 g). This crude material was used in the next step without further purification. 1H NMR (300 MHz, CDCl3) δ 3.96 (s, 3H), 6.94 (dd, 1H, J=4.5 Hz and J=9.0 Hz), 7.19 (m, 1H), 7.50 (dd, 1H, J=3.3 Hz and J=8.7 Hz), 10.508 (s, 1H).

reactant | 5-Fluorosalicylic acid | 1.74 mol, 272.6 g | FC1=CC=C(C(C(=O)O)=C1)O | C7H5FO3
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | Trimethyl orthoformate | 200 ml | C(OC)(OC)OC | C4H10O3
solvent | methanol | 1.3 L | CO | CH4O
product | 5-fluorosalicylic acid methyl ester | 293.8 g | COC(C=1C(O)=CC=C(C1)F)=O | C8H7FO3
